US04983597
Preparation of (±)-cis-3-Ethyl-4-p-methoxyphenylacetoxymethyl-N-toluenesulfonyl-2-azetidinone
To (±)-cis-3-ethyl-4-hydroxymethyl-N-toluenesulfonyl-2-azetidinone (3.3 mg) and p-methoxyphenylacetic acid (3.7 mg) in CH2Cl2 (0.6 ml) was added dicyclohexylcarbodiimide (DCC) (5 mg) followed by p-dimethylaminopyridine (DMAP) (1 mg). The mixture was stirred overnight, at room temperature and then purified via preparative tlc on a silica gel plate and developed with CH2Cl2 to yield the titled compound.

reactant | (±)-cis-3-ethyl-4-hydroxymethyl-N-toluenesulfonyl-2-azetidinone | 3.3 mg | C(C)[C@@H]1C(N([C@@H]1CO)S(=O)(=O)C=1C(=CC=CC1)C)=O | C13H17NO4S
reactant | p-methoxyphenylacetic acid | 3.7 mg | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | dicyclohexylcarbodiimide | 5 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 0.6 ml | C(Cl)Cl | CH2Cl2
catalyst | p-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (±)-cis-3-Ethyl-4-p-methoxyphenylacetoxymethyl-N-toluenesulfonyl-2-azetidinone | C(C)[C@@H]1C(N([C@@H]1COC(CC1=CC=C(C=C1)OC)=O)S(=O)(=O)C=1C(=CC=CC1)C)=O | C22H25NO6S
